US07777038B2
5-Cyano-3,4-dihydro-1H-quinolin-2-one (100 mg) and Raney nickel (100 mg) were suspended in formic acid (10 ml), and the suspension was heated under reflux for 2 hours. An additional 100 mg of Raney nickel was added, followed by heating under reflux for 1 hour. The reaction mixture was filtered to remove the insoluble matter, and the filtrate was concentrated. Ethyl acetate and water were added to the residue, and after stirring, the mixture was filtered through Celite. The filtrate was separated into layers, and the organic layer was washed with water and dried over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was recrystallized from an ethyl acetate-n-hexane mixed solvent to thereby obtain 77 mg (yield: 76%) of 2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde as a light brown powder.

reactant | 5-Cyano-3,4-dihydro-1H-quinolin-2-one | 100 mg | C(#N)C1=C2CCC(NC2=CC=C1)=O | C10H8N2O
reactant | formic acid | 10 ml | C(=O)O | CH2O2
catalyst | Raney nickel | 100 mg | [Ni] | Ni
catalyst | Raney nickel | 100 mg | [Ni] | Ni
product | 2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 77 mg, yield: 76% | O=C1NC=2C=CC=C(C2CC1)C=O | C10H9NO2
